### PR TITLE
[Merged by Bors] - chore: remove multiGoal false options

### PR DESCRIPTION
**Pull request by adomani**
There are 3 such removals and they are removed for 3 different reasons:
* in `Mathlib/Analysis/Analytic/Within.lean`, there are several active goals, so we use the focusing dots;
* in `Mathlib/Analysis/CStarAlgebra/ApproximateUnit.lean`, the linter does not actually flag an issue;
* in `Mathlib/Probability/Kernel/Proper.lean`, the *infoview* hides a goal in the presence of `simp_rw`, but the goal is there ([#mathlib4 > &#96;simp_rw&#96; hides a goal @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60simp_rw.60.20hides.20a.20goal/near/564013486)).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Analysis/Analytic/Within.lean [hunk 1]
```diff
@@ -123,11 +122,11 @@ lemma hasFPowerSeriesWithinOnBall_iff_exists_hasFPowerSeriesOnBall [CompleteSpac
     · intro y ⟨ys,yb⟩
       simp only [EMetric.mem_ball, edist_eq_enorm_sub] at yb
       have e0 := p.hasSum (x := y - x) ?_
-      have e1 := (h.hasSum (y := y - x) ?_ ?_)
-      · simp only [add_sub_cancel] at e1
-        exact e1.unique e0
-      · simpa only [add_sub_cancel]
-      · simpa only [EMetric.mem_ball, edist_zero_eq_enorm]
+      · have e1 := (h.hasSum (y := y - x) ?_ ?_)
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Within.lean:125]: I'm not sure if I like `have with metavariables`; this reminds me too much of lean3 have which we abolished. But that's besides this PR's point.

**Review by grunweg — COMMENTED** [review]
Thanks!
bors merge
